US07381719B2
6-(2-Ethoxy-4-formyl-phenoxy)-nicotinonitrile
Using a method similar to Example 365, step 1, and using 3-ethoxy-4-hydroxy-benzaldehyde (3.00 g, 18.0 mmol), 6-chloro-nicotinonitrile (2.65 g, 18.0 mmol), and potassium carbonate (6.62 g, 45.2 mmol) in dimethylacetamide (90 mL), after 3 h at 100° C. (no purification) provides 4.52 g (93%) of the title compound as a yellow/white solid: mass spectrum (electrospray): m/z=269.0 (M+1); 1H NMR (CDCl3): 9.96 (s, 1H), 8.39 (d, 1H, J=2.0 Hz), 7.95 (dd, 1H, J=2.0, 8.3 Hz), 7.55-7.50 (m, 2H), 7.33 (d, 1H, J=7.8 Hz), 7.11 (d, 1H, J=9.3 Hz), 4.05 (q, 2H, J=6.8 Hz), 1.16 (t, 3H, J=6.8 Hz).

reactant | 3-ethoxy-4-hydroxy-benzaldehyde | 18.0 mmol, 3.00 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | 6-chloro-nicotinonitrile | 18.0 mmol, 2.65 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | potassium carbonate | 45.2 mmol, 6.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 90 mL | CC(=O)N(C)C | C4H9NO
product | 6-(2-Ethoxy-4-formyl-phenoxy)-nicotinonitrile | 4.52 g, 93% | C(C)OC1=C(OC2=NC=C(C#N)C=C2)C=CC(=C1)C=O | C15H12N2O3
